US08476437B2
Preparation of 3-hydroxy-1-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)-4-(2,4,5-trifluorophenyl)butan-1-one
In a 500 mL round bottom flask THF (50 mL) and methanol (100 mL) were taken. To the solution sodium salt of 4-oxo-4-[3-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl]-1-(2,4,5-trifluorophenyl)butan-2-one (2.0 g) was added. It was cooled to −78 to 70° C. in a dry-ice bath. Then NaBH4 (0.7 g) was added in small lots in 10-15 min. It was stirred at −78 to 70° C. for 3-4 h. Reaction mixture was poured into aq. saturated NH4Cl solution at 0-5° C. Product was extracted with ethyl acetate. Organic layer was collected and dried over anhydrous sodium sulfate. Solvent was evaporated at reduced pressure to obtain the product. (Wt.-2.0 g, % Y-100%, % Purity by HPLC-95.6%).

reactant | sodium | [Na] | Na
reactant | 4-oxo-4-[3-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl]-1-(2,4,5-trifluorophenyl)butan-2-one | 2.0 g | O=C(CC(CC1=C(C=C(C(=C1)F)F)F)=O)N1CC=2N(CC1)C(=NN2)C(F)(F)F | C16H12F6N4O2
reactant | NaBH4 | 0.7 g | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | methanol | 100 mL | CO | CH4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-1-(3-(trifluoromethyl)-5,6-dihydro-[1,2,4]triazolo[4,3-a]pyrazin-7(8H)-yl)-4-(2,4,5-trifluorophenyl)butan-1-one | OC(CC(=O)N1CC=2N(CC1)C(=NN2)C(F)(F)F)CC2=C(C=C(C(=C2)F)F)F | C16H14F6N4O2
